US08293768B2
Synthesis of 2-(3-benzyl-2-oxoimidazolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide
To a solution of 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid (0.32 g, 1.00 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.20 g, 1.30 mmol) and N,N-diisopropylethylamine (0.50 mL, 2.80 mmol) in N,N-dimethylformamide (20 mL) was added 1-hydroxybenzotriazole (0.16 g, 1.20 mmol). The resulting mixture was stirred at ambient temperature for 15 minutes and 4-fluorobenzylamine (0.17 mL, 1.45 mmol) was added. The reaction mixture was kept stirring for 27 hours at ambient temperature, then was diluted with ethyl acetate (300 mL) and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo, and the residue was purified by column chromatography to afford the title compound as a white powder in 58% yield (0.25 g): mp 147-148° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.35-7.20 (m, 7H), 7.02-6.96 (m, 2H), 6.00 (s, 1H), 4.55-4.44 (m, 4H), 4.04 (t, J=7.5 Hz, 2H), 3.42 (t, J=7.5 Hz, 2H), 2.59 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 163.8, 162.4, 160.5, 157.3, 155.3, 153.2, 135.5, 133.8, 129.4, 128.9, 128.2, 117.0, 115.7, 47.9, 43.2, 42.0, 41.6, 17.1; MS (ES+) m/z 425.2 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 1.00 mmol, 0.32 g | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.30 mmol, 0.20 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 2.80 mmol, 0.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole | 1.20 mmol, 0.16 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-fluorobenzylamine | 1.45 mmol, 0.17 mL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | 58% yield | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F)=O | C22H21FN4O2S
